US06165944
At room temperature and under an atmosphere of protective gas, 43.60 g (0.13 mol) of 2-chloro-3-(4,5-dihydroisoxazol-3-yl)-4-methylsulfonylbenzoyl chloride in 375 ml of anhydrous dioxane and 13.56 g (0.134 mol) of triethylamine in 375 ml of anhydrous dioxane were simultaneously added dropwise to a solution of 12.74 g (0.13 mol) of 5-hydroxy-1-methylpyrazole and 300 ml of anhydrous dioxane. The reaction mixture was stirred at room temperature for 2 hours and then filtered off through silica gel, which was rinsed with dioxane. The eluate was concentrated under reduced pressure to about 500 ml and admixed with 17.94 g (0.13 mol) of dried, finely powdered potassium carbonate. After 6 hours under reflux, the solvent was distilled off under reduced pressure and the residue was taken up in about 700 ml of water. Insoluble components were filtered off and the pH of the filtrate was adjusted to 2-3 by slowly adding 10% strength hydrochloric acid. The precipitate that formed was filtered off with suction. 46.16 g (92% of theory) of 4-[2-chloro-3-(4,5-dihydroisoxazol-3-yl)-4-methylsulfonylbenzoyl]-5-hydroxy-1-methyl-1H-pyrazole were obtained.

reactant | 2-chloro-3-(4,5-dihydroisoxazol-3-yl)-4-methylsulfonylbenzoyl chloride | 0.13 mol, 43.60 g | ClC1=C(C(=O)Cl)C=CC(=C1C1=NOCC1)S(=O)(=O)C | C11H9Cl2NO4S
reactant | triethylamine | 0.134 mol, 13.56 g | C(C)N(CC)CC | C6H15N
reactant | 5-hydroxy-1-methylpyrazole | 0.13 mol, 12.74 g | OC1=CC=NN1C | C4H6N2O
solvent | dioxane | 375 ml | O1CCOCC1 | C4H8O2
solvent | dioxane | 375 ml | O1CCOCC1 | C4H8O2
solvent | dioxane | 300 ml | O1CCOCC1 | C4H8O2
product | 4-[2-chloro-3-(4,5-dihydroisoxazol-3-yl)-4-methylsulfonylbenzoyl]-5-hydroxy-1-methyl-1H-pyrazole | 46.16 g, 92% | ClC1=C(C(=O)C=2C=NN(C2O)C)C=CC(=C1C1=NOCC1)S(=O)(=O)C | C15H14ClN3O5S
